US04532349
5-[[p-(p-chlorophenylsulfonyl)anilino]methyl]-1H-tetrazole
A reaction mixture comprising 6.14 g of [p-(p-chlorophenylsulfonyl)anilino]acetonitrile, 1.43 g of sodium azide, 30 mg of lithium chloride, 1.18 g of ammonium chloride and 10 ml of dimethylformamide was stirred at 90° C. for 34 hours and then filtered. The solvent was removed in vacuo, the residue suspended in 50 ml of water and acidified with hydrochloric acid to pH2. The resulting solid was collected and recrystallized from acetic acid, giving 5.4 g of the desired product as tan crystals, mp 102°-105° C.

reactant | [p-(p-chlorophenylsulfonyl)anilino]acetonitrile | 6.14 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(NCC#N)C=C1 | C14H11ClN2O2S
reactant | sodium azide | 1.43 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.18 g | [Cl-].[NH4+]
catalyst | lithium chloride | 30 mg | [Cl-].[Li+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-[[p-(p-chlorophenylsulfonyl)anilino]methyl]-1H-tetrazole | 5.4 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(NCC2=NN=NN2)C=C1 | C14H12ClN5O2S
